US07572801B2
Under an atmosphere of argon, bis(triphenylphosphine)palladium(II) chloride ([13965-03-2], 326 mg) and copper(I) iodide (44 mg) were added to a solution of 3-iodotoluene ([625-95-6], 506 mg, 2 mmol) and pent-4-ynoic acid (3-cyano-pyridin-2-yl)-amide (508 mg, 3 mmol) in diethylamine (15 ml). The mixture was kept at r.t. (3d). The volatiles were evaporated, and the residue was taken up in ethyl acetate. After washing (H2O) and drying (Na2SO4), the solvent was evaporated and 5-m-tolyl-pent-4-ynoic acid (3-cyano-pyridin-2-yl)-amide was isolated from the reaction mixture by column chromatography (silica gel, ethyl acetate/heptane). MS: m/e=290.1 [M+H+].

reactant | 3-iodotoluene | 2 mmol, 506 mg | IC=1C=C(C=CC1)C | C7H7I
reactant | pent-4-ynoic acid (3-cyano-pyridin-2-yl)-amide | 3 mmol, 508 mg | C(#N)C=1C(=NC=CC1)NC(CCC#C)=O | C11H9N3O
solvent | diethylamine | 15 ml | C(C)NCC | C4H11N
catalyst | bis(triphenylphosphine)palladium(II) chloride | 326 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 44 mg | [Cu]I
product | 5-m-tolyl-pent-4-ynoic acid (3-cyano-pyridin-2-yl)-amide | C(#N)C=1C(=NC=CC1)NC(CCC#CC=1C=C(C=CC1)C)=O | C18H15N3O
